US07700552B2
N-tert-butyloxycarbonylaminophthalimide (81)
A mixture of phthalic anhydride (29.63 g, 200 mmol) and tert-butylcarbazate (26.40 g, 200 mmole) in toluene was refluxed for two hours using a Dean-Stark trap. The mixture was allowed to cool and crystallize overnight. The crystals were filtered of and washed with cold toluene. The crystals were dried in vacuum.

reactant | phthalic anhydride | 200 mmol, 29.63 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | tert-butylcarbazate | 200 mmole, 26.40 g | C(C)(C)(C)OC(NN)=O | C5H12N2O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-tert-butyloxycarbonylaminophthalimide | C(C)(C)(C)OC(=O)NN1C(C=2C(C1=O)=CC=CC2)=O | C13H14N2O4
